US08957064B2
4-(2-ethyl-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)benzaldehyde
This compound was prepared in a manner according to ethyl 7-(4-formylphenyl)-6-phenylimidazo[1,2-a]pyrimidine-2-carboxylate by using 1-bromobutan-2-one instead of ethyl 3-bromo-2-oxopropanoate in step 5.

reactant | ethyl 7-(4-formylphenyl)-6-phenylimidazo[1,2-a]pyrimidine-2-carboxylate | C(=O)C1=CC=C(C=C1)C1=NC=2N(C=C1C1=CC=CC=C1)C=C(N2)C(=O)OCC | C22H17N3O3
reactant | 1-bromobutan-2-one | BrCC(CC)=O | C4H7BrO
product | 4-(2-ethyl-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)benzaldehyde | C(C)C=1N=C2N(C=C(C(=N2)C2=CC=C(C=O)C=C2)C2=CC=CC=C2)C1 | C21H17N3O
